US06660739B1
C. 1-boc-4-(6-Chloronaphthalen-2-ylsulfonyl)piperazine
To a stirring solution of N-Boc-piperazine (400 mg, 2.1 mmol) and triethylamine (1 mL, 7 mml) in methylene chloride (5 mL) was added 6-chloro-2-naphthalenesulfonyl chloride (500 mg, 1.9 mmol). After 2 h the solution was washed with water, dried over sodium sulfate and evaporated. The residue was chromatographed on a (Biotage) silica column eluting with ethyl acetate:hexanes (2:8) to give 300 mg (38%). 1H-NMR (CDCl3): δ (s, 9H, 1.4), (m, 4H, 3.07), (m, 4H, 3.55), (dd, 1H, 7.55, J=1,12), (dd, 1H, 7.75, J=1,12), (m, 4H, 7.9), (s, 1H, 8.3), MS (FD) 410.1 M+; IR (chloroform) carbonyl 1691 cm−1. Anal. Calcd: C, 55.54; H, 5.64; N, 6.82; Cl, 8.63; Found: C, 55.71; H, 5.76; N, 6.85; Cl, 8.76.

reactant | N-Boc-piperazine | 2.1 mmol, 400 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | 6-chloro-2-naphthalenesulfonyl chloride | 1.9 mmol, 500 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)Cl | C10H6Cl2O2S
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-boc-4-(6-Chloronaphthalen-2-ylsulfonyl)piperazine | C(=O)(OC(C)(C)C)N1CCN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl | C19H23ClN2O4S
